US07459562B2
E) 4-(4-Amino-2-fluorophenoxy)-N-(2-morpholinoethyl)pyridin-2-amine, hydrochloride salt
A mixture of N-(3-fluoro-4-(2-(2-morpholinoethylamino)pyridin-4-yloxy)phenyl)acetamide trifluoroacetate (40 mg), MeOH (1 mL), and 6 M HCl (0.2 mL) was heated at reflux for 3 h. The reaction mixture was concentrated on a rotary evaporator and the residue lyophilized to give the title compound (30 mg, 76%) as a white solid. 1H NMR (DMSO-d6) δ 11.12 (br s, 1H), 8.85 (br s, 1H), 7.95 (d, 1H, J=7.2 Hz), 7.08 (dd, 1H, J=8.8, 8.8 Hz), 6.65-6.63 (m, 2H), 6.54 (d, 1H, J=8.3 Hz), 6.31 (br s, 1H), 3.85 (m, 6H), 3.33 (m, 6H); MS(ESI−) m/z 373.14 (M−H).

reactant | N-(3-fluoro-4-(2-(2-morpholinoethylamino)pyridin-4-yloxy)phenyl)acetamide trifluoroacetate | 40 mg | FC(C(=O)O)(F)F.FC=1C=C(C=CC1OC1=CC(=NC=C1)NCCN1CCOCC1)NC(C)=O
reactant | HCl | 6 M, 0.2 mL | Cl | ClH
solvent | MeOH | 1 mL | CO | CH4O
product | 4-(4-Amino-2-fluorophenoxy)-N-(2-morpholinoethyl)pyridin-2-amine, hydrochloride salt | 30 mg, 76% | Cl.NC1=CC(=C(OC2=CC(=NC=C2)NCCN2CCOCC2)C=C1)F | InChI=1S/C17H21FN4O2.ClH/c18-15-11-13(19)1-2-16(15)24-14-3-4-20-17(12-14)21-5-6-22-7-9-23-10-8-22;/h1-4,11-12H,5-10,19H2,(H,20,21);1H
